data/pmechdb/original/mc_train_fold0/raw/train.txt
CC(C(=O)O)NC(=O)CNC(=O)C(CC1=CC=CC=C1)N[C:20](=[OH+:21])[O:10][C:11](C)(C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CC(C(=O)O)NC(=O)CNC(=O)C(CC1=CC=CC=C1)N[C:20](=[O:10])[OH:21].C[C+:11](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10,11=10,20;20,21=21
[H:20][OH2+:21].CC1(OCC[O:10]1)C>>[H:20][O+:10]1CCOC1(C)C.[OH2:21] 10=20;20,21=21
C[OH:10].CO[PH+:20](OC)Cl>>C[OH+:10][PH:20](OC)(OC)Cl 10=20,
CCC[CH:20]=[O:21].C1=CC=[C:10](C=C1)[Mg:11]Br>>CCC[CH:20]([C:10]1=CC=CC=C1)[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
[B-:10]([O+](C)C1=CC=C(C=C1)CCC)(Br)(Br)[Br:11]>>[B:10]([O+](C)C1=CC=C(C=C1)CCC)(Br)Br.[Br-:11] 10,11=11
C[NH2:10].COC1=C(C=C(C=C1)C23CCC(=O)CC2O[C:20](=[O:21])C3)OC>>C[NH2+:10][C:20]1(CC2(CCC(=O)CC2O1)C3=CC(=C(C=C3)OC)OC)[O-:21] 10=20;20,21=21
[H:20][C:21]12C(C3C(C(CN3C(=O)[C:22]1=[CH:23][CH:24]=[N+:25]2C(=O)OC(C)(C)C)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)NC(=O)OCC4=CC=CC=C4.C1=CC2=C(C=C1)C3=C(C=C2)OP(=O)(OC4=CC=C5C=CC=CC5=C43)[O-:10].O>>[H:20][O:10]P1(=O)OC2=C(C3=C(C=CC=C3)C=C2)C4=C5C=CC=CC5=CC=C4O1.CC(C)(C)OC(=O)[N:25]1[CH:24]=[CH:23][C:22]2=[C:21]1C(C3C(C(CN3C2=O)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)NC(=O)OCC4=CC=CC=C4.O 10=20;24,25=25;20,21=21,22;22,23=23,24
[H:20][O+:21]1CCOC12CCC3(C(C2)CCC3=O)C.C(=O)(C(=O)[O-:10])O.O>>CC12CCC3(CC1CCC2=O)OCC[O:21]3.[H:20][O:10]C(=O)C(=O)O.O 10=20;20,21=21
C1CCO[C:20](C1)([OH2+:21])[OH:10]>>C1CCO[C:20](=[OH+:10])C1.[OH2:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C[N:12](C)[CH:11]=[CH2:10]>>[H:20][CH2:10][CH:11]=[N+:12](C)C.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
C[S+:21]1C[CH2:20]1.[OH2:10]>>C[S:21]C[CH2:20][OH2+:10] 10=20;20,21=21
CC(C(CCC(=O)OC)C(=O)C)[CH:20]([NH2:10])[OH2+:21].C(=O)(O)[O-].N>>CC([CH:20]=[NH2+:10])C(CCC(=O)OC)C(=O)C.[OH2:21].C(=O)(O)[O-].N 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CO1)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=CO1 10=20;20,21=21,22
CC(=O)O[C:20](=[O:21])C.[C-:10]#N>>CC(=O)O[C:20](C)([C:10]#N)[O-:21] 10=20;20,21=21
C[C:20]([CH:10]=[C:11](C1=C(C=CC=C1)F)[O-:12])(C2=C(C=CC=C2)F)[OH:21]>>C[C:20](=[CH:10][C:11](=[O:12])C1=C(C=CC=C1)F)C2=C(C=CC=C2)F.[OH-:21] 10,11=10,20;20,21=21;12=11
[B:20]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)OC(C(C)C=C)C(C)C(CCCCCCC)OC(=O)C(COCC2=CC=CC=C2)NC(=O)OC(C)(C)C.[OH-:10].O.[Na+]>>[B-:20]1(OC(C(O1)C(=O)OC(C)C)C(=O)OC(C)C)([OH:10])OC(C(C)C=C)C(C)C(CCCCCCC)OC(=O)C(COCC2=CC=CC=C2)NC(=O)OC(C)(C)C.O.[Na+] 10=20,
CC1(OC2CCCC3C2([O+]1[Si-:10](C)(C)(C)[O:11]S(=O)(=O)C(F)(F)F)C(=C)CC3)C>>CC1(OC2CCCC3C2([O+]1[Si:10](C)(C)C)C(=C)CC3)C.C(F)(F)(F)S(=O)(=O)[O-:11] 10,11=11
C[N+:21](C)(C)[CH2:20][C:10](=[C:11]=[N-:12])CC1=CC=CC=C1.CI.C(=O)=O>>C[N:21](C)C.[CH2:20]=[C:10](CC1=CC=CC=C1)[C:11]#[N:12].CI.C(=O)=O 10,11=10,20;20,21=21;12=11
[H:20][CH2:21][C+:22](C)C(CCC(=CCCC(C)CC)C)C[O:10][Al-](C)(C)Cl>>[H:20][O+:10](CC(CCC(=CCCC(C)CC)C)[C:22](=[CH2:21])C)[Al-](C)(C)Cl 10=20;20,21=21,22
CC(C(=O)NCC(=O)NC(C)C(=O)O)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CC(C(=O)NCC(=O)NC(C)C(=O)O)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
[H:20][NH+:21]1C2=C(C=C(C=C2)C(=O)C3=CC=CC=C3)N=C4C1(C5=C(CC4(C)C)N(N=C5)C6=CC=C(C=C6)F)O.C1=CC=C(C=C1)C(=O)C2=CC(=C(C=C2)N)[NH2:10].CCO.O.[Cl-]>>[H:20][NH2+:10]C1=C(C=CC(=C1)C(=O)C2=CC=CC=C2)N.CC1(CC2=C(C=NN2C3=CC=C(C=C3)F)C4(C1=NC5=C([NH:21]4)C=CC(=C5)C(=O)C6=CC=CC=C6)O)C.CCO.O.[Cl-] 10=20;20,21=21
CN(C)[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.[Br:20][Br:21]>>CN(C)[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[Br:20].[Br-:21] 10,11=10,20;20,21=21;12,13=11,12
C[CH:10](CC=O)[OH2+:11]>>C[CH+:10]CC=O.[OH2:11] 10,11=11
C[C:20](=[O:21])C1=C(C=CC=C1)O.C(CO)[NH2:10]>>C[C:20](C1=C(C=CC=C1)O)([NH2+:10]CCO)[O-:21] 10=20;20,21=21
[H:20][C:21]1([CH:22]=[CH:23][C+:24](C2=CC=CC=C21)C)C(C)C.[F-:10]>>[H:20][F:10].C[C:24]1=[CH:23][CH:22]=[C:21](C2=CC=CC=C12)C(C)C 10=20;20,21=21,22;22,23=23,24
C1=CC=C(C=C1)[C:10](C2=CC=CC=C2)(C3=CC=CC=C3)[Cl:11].CC[NH+](CC)CC.C1=CC(=CC(=C1)C#N)OCCCSC2=N[N-]C=N2>>C1=CC=C(C=C1)[C+:10](C2=CC=CC=C2)C3=CC=CC=C3.[Cl-:11].CC[NH+](CC)CC.C1=CC(=CC(=C1)C#N)OCCCSC2=N[N-]C=N2 10,11=11
CC(=C)C1CCC2(C1C3CCC4C5(CCC(=O)C(C5CCC4(C3(CC2)C)C)(C)C)C)[C:20](=[O:21])Cl.C1CN(CC[NH:10]1)C2=CC=C(C=C2)F.CCN(CC)CC>>CC(=C)C1CCC2(C1C3CCC4C5(CCC(=O)C(C5CCC4(C3(CC2)C)C)(C)C)C)[C:20]([NH+:10]6CCN(CC6)C7=CC=C(C=C7)F)([O-:21])Cl.CCN(CC)CC 10=20;20,21=21
C1CCC([CH:20](C1)[Cl:21])[Cl:10]>>C1CCC2[CH:20](C1)[Cl+:10]2.[Cl-:21] 10=20;20,21=21
C[C:11](=[C:10](C[CH:20](C(=O)OC)[Br:21])C(=O)OC)[O-:12].C1CCC2=[NH+]CCCN2CC1>>C[C:11](=[O:12])[C:10]1(C[CH:20]1C(=O)OC)C(=O)OC.[Br-:21].C1CCC2=[NH+]CCCN2CC1 10,11=10,20;20,21=21;12=11
[H:20][CH:21]1CC([O+:23]=[C:22]1C2=CC=CC=C2)(C3=CC=C(C=C3)C)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:10].CC1=CC=CC=C1>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.CC1=CC=C(C=C1)C2(C[CH:21]=[C:22]([O:23]2)C3=CC=CC=C3)O.CC1=CC=CC=C1 10=20;22,23=23;20,21=21,22
C[N:10]1CCC[S+:21]([CH2:20]1)SC.[B-](F)(F)(F)F.CSC>>C[N+:10](=[CH2:20])CCC[S:21]SC.[B-](F)(F)(F)F.CSC 10=20;20,21=21
[H:20][C:21](C)(C)[C:22](=O)[Cl:23].CC[N:10](CC)CC>>[H:20][N+:10](CC)(CC)CC.C[C:21](=[C:22]=O)C.[Cl-:23] 10=20;22,23=23;20,21=21,22
